US04331676
2-[(4R)-4-Acetylthio-2-oxoazetidin-1-yl]-2-oxoacetic acid methyl ester
4 equivalents of ozone are introduced over a period of 60 minutes into a solution, cooled to -15°, of 150 mg of 2-[(4R)-4-acetylthio-2-oxoazetidin-1-yl]-3-methylcrotonic acid methyl ester in 3 ml of methanol. The reaction mixture is rinsed with nitrogen, diluted with methylene chloride and washed for 2 minutes with a 5% aqueous sodium bisulphite solution. The organic phase is dried over sodium sulphate and concentrated in vacuo. IR spectrum of the resulting oily title compound (in methylene chloride): characteristic bands at 3.30-3.40, 5.52, 5.70, 5.83 (sh), 5.86, 6.98, 7.08 (sh), 7.40, 7.82-8.00 (broad, sh), 8.07, 8.19, 8.30 (sh), 8.46, 8.90, 9.22, 9.52, 9.91, 10.30 and 10.73μ. The product obtained can be used in the next stage without further purification.

reactant | ozone | 4 equivalents | O=[O+][O-] | O3
reactant | 2-[(4R)-4-acetylthio-2-oxoazetidin-1-yl]-3-methylcrotonic acid methyl ester | 150 mg | COC(C(=C(C)C)N1C(C[C@H]1SC(C)=O)=O)=O | C11H15NO4S
solvent | methanol | 3 ml | CO | CH4O
product | 2-[(4R)-4-Acetylthio-2-oxoazetidin-1-yl]-2-oxoacetic acid methyl ester | COC(C(=O)N1C(C[C@H]1SC(C)=O)=O)=O | C8H9NO5S
